US08119633B2
2-(3,4-Dichloro-N-methylphenylsulfonamido)-4,5,6,7-tetrahydrobenzo[b]-thiophene-3-carboxylic acid S5
TFA (30 ml, 404 mmol) was added to a solution of tert-butyl 2-(3,4-dichloro-N-methylphenylsulfonamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylate (8.00 g, 16.8 mmol) in DCM (100 ml), and stirring was carried out for 1 h at room temperature. The reaction mixture was concentrated, and the TFA that remained was removed with toluene, DCM and diethyl ether. The residue was washed twice with diisopropyl ether.

reactant | TFA | 404 mmol, 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 2-(3,4-dichloro-N-methylphenylsulfonamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylate | 16.8 mmol, 8.00 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)N(C)C1=C(C2=C(S1)CCCC2)C(=O)OC(C)(C)C | C20H23Cl2NO4S2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,4-Dichloro-N-methylphenylsulfonamido)-4,5,6,7-tetrahydrobenzo[b]-thiophene-3-carboxylic acid | ClC=1C=C(C=CC1Cl)S(=O)(=O)N(C)C1=C(C2=C(S1)CCCC2)C(=O)O | C16H15Cl2NO4S2
